* 5F2-A (Tweed Princeton-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5F2-A
* (K-EG) drawing's component values (see meta.yaml sources); no drawing reproduced.
*
* DC conventions (per the exemplars):
*  - B+1 driven at 360 V. The K-EG drawing prints no voltage chart; 360 V is
*    Rob Robinette's measured first-node value for this DC-identical tweed
*    6V6 single-ended circuit (the 5F2-A is the 5F1 Champ plus a tone control).
*  - Downstream nodes are DERIVED by simulation, never asserted.
*  - Output-transformer primary DCR omitted (6V6 plate node = B+1, as voltage
*    charts conventionally annotate).
*  - DC-open caps (coupling / cathode-bypass) are MODELLED where both leads
*    land on a named DC node, so their board placement is machine-checked by
*    verify_layout_nets; open at DC, they move no operating point. The whole
*    tone/volume network is capacitor-coupled, so caps with a lead inside it
*    (C2 into the tone/volume net, the tone caps) stay omitted; V1B's grid
*    returns to ground only through the 1 M volume pot at DC.
*  - Input 68k grid stoppers omitted (carry no DC grid current).
*  - Feedback resistor R12 (22k) included: it parallels V1B's UNbypassed 1.5k
*    cathode at DC through the speaker secondary's ~0 ohm DCR.
.include models/12ax7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 360

* power-rail droppers (10k-1W then 22k; filters 32u / 8u / 8u, 450 V)
R10 BP1 BP2 10k
R11 BP2 BP3 22k

* V1A input stage
R4  BP3 P1A 100k
XV1A P1A G1A K1A 12AX7
R3  G1A 0 1meg
R5  K1A 0 1.5k

* V1B driver stage (grid returned to ground through the 1M volume pot at DC)
R6  BP3 P1B 100k
XV1B P1B G1B K1B 12AX7
RVOL G1B 0 1meg
R7  K1B 0 1.5k
R12 K1B 0 22k

* 6V6GT output stage (plate at B+1, screen at B+2)
XV2 BP1 BP2 G2 K2 6V6GT
R8  G2 0 220k
R9  K2 0 470

* DC-open caps (both leads on a named DC node — placement layout-checked)
C1  K1A 0 25u
C6  K2  0 25u
C5  P1B G2 0.02u
